US09226922B2
A solution of (6-chloro-3-(2-hydroxyethoxy)-1-trityl-1H-pyrazolo[4,3-c]pyridin-4-yl)methyl acetate (491.9 mg, 0.932 mmol) in MeOH (2 ml) and DCM (2 ml) was charged with sodium methoxide (25 wt % in MeOH, 0.45 ml, 1.968 mmol) and stirred at RT for 2 hr. Quenched with sat aq NH4Cl and extracted 3× with DCM. Washed organics with brine, dried over Na2SO4, filtered and concentrated in vacuo to provide 2-((6-chloro-4-(hydroxymethyl)-1-trityl-1H-pyrazolo[4,3-c]pyridin-3-yl)oxy)ethanol. MS: [M+H]+ m/z 486.

reactant | (6-chloro-3-(2-hydroxyethoxy)-1-trityl-1H-pyrazolo[4,3-c]pyridin-4-yl)methyl acetate | 0.932 mmol, 491.9 mg | C(C)(=O)OCC1=NC(=CC2=C1C(=NN2C(C2=CC=CC=C2)(C2=CC=CC=C2)C2=CC=CC=C2)OCCO)Cl | C30H26ClN3O4
reactant | sodium methoxide | 1.968 mmol, 0.45 ml | C[O-].[Na+]
solvent | MeOH | 2 ml | CO | CH4O
solvent | DCM | 2 ml | C(Cl)Cl | CH2Cl2
product | 2-((6-chloro-4-(hydroxymethyl)-1-trityl-1H-pyrazolo[4,3-c]pyridin-3-yl)oxy)ethanol | ClC1=CC2=C(C(=N1)CO)C(=NN2C(C2=CC=CC=C2)(C2=CC=CC=C2)C2=CC=CC=C2)OCCO | C28H24ClN3O3
